US07897762B2
HNO3 (6.92 g, 71.4 mmol) was added dropwise to a suspension of ethyl 2-(4-fluoro-2-methylphenyl)-2-oxoacetate (15 g, 71.4 mmol) in conc. H2SO4 (50 mL) at ° C. After complete addition the resulting mixture was stirred at 0° C. for 30 min. The mixture was poured into ice water, and extracted with EtOAc. The organic extract was washed with brine, dried (MgSO4) and concentrated in vacuo to give ethyl 2-(4-fluoro-2-methyl-5-nitrophenyl)-2-oxoacetate (15 g, 83% yield), which was used in the next step without further purification. 1H NMR (400 MHz, CDCl3): δ 8.53 (d, J=7.2 Hz, 1 H), 7.24 (d, J=7.2 Hz, 1 H), 4.47 (q, J=7.2 Hz, 2 H), 2.67 (s, 3 H), 1.43 (t, J=7.2 Hz, 3 H).

reactant | HNO3 | 71.4 mmol, 6.92 g | [N+](=O)(O)[O-] | HNO3
reactant | ethyl 2-(4-fluoro-2-methylphenyl)-2-oxoacetate | 71.4 mmol, 15 g | FC1=CC(=C(C=C1)C(C(=O)OCC)=O)C | C11H11FO3
solvent | H2SO4 | 50 mL | OS(=O)(=O)O | H2O4S
product | ethyl 2-(4-fluoro-2-methyl-5-nitrophenyl)-2-oxoacetate | 15 g, 83% yield | FC1=CC(=C(C=C1[N+](=O)[O-])C(C(=O)OCC)=O)C | C11H10FNO5
